US07855297B2
By the reaction and treatment in the same manner as in Example 82 using 5-benzyloxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (5.94 g) and 1-(tert-butoxycarbonyl)-4-(hydroxymethyl)pyrazole (2.95 g) as starting materials, 5-benzyloxy-N-(4-isopropylphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (3.00 g) was obtained.

reactant | 5-benzyloxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 5.94 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)NC1=CC=C(C=C1)C(C)C | C27H29NO2
reactant | 1-(tert-butoxycarbonyl)-4-(hydroxymethyl)pyrazole | 2.95 g | C(C)(C)(C)OC(=O)N1N=CC(=C1)CO | C9H14N2O3
product | 5-benzyloxy-N-(4-isopropylphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 3.00 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C1=CC=C(C=C1)C(C)C | C31H33N3O2
